US05470851
1-(7-Aminoheptyl)-4-(diphenylmethylene)piperidine
The title compound was prepared in a yield of 91% in a similar manner to that described in Preparation 41' by reacting 4-(diphenylmethylene)-1-(6-cyanohexyl)-piperidine (prepared as described in Preparation 40') and lithium aluminum hydride.

reactant | 4-(diphenylmethylene)-1-(6-cyanohexyl)-piperidine | C1(=CC=CC=C1)C(=C1CCN(CC1)CCCCCCC#N)C1=CC=CC=C1 | C25H30N2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-(7-Aminoheptyl)-4-(diphenylmethylene)piperidine | yield of 91% | NCCCCCCCN1CCC(CC1)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C25H34N2
